US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-phthalimidopropyloxy)phenyl]benzamide (545 mg) and hydrazine hydrate (0.212 ml) in ethanol (20 ml) was refluxed for 4 hours. After removal of insoluble material, the filtrate was evaporated in vacuo to give an oil and the oil was subjected to a silica gel column (5% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-aminopropyloxy)phenyl]benzamide (425 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-phthalimidopropyloxy)phenyl]benzamide | 545 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1 | C39H33N3O5
reactant | hydrazine hydrate | 0.212 ml | O.NN
reactant | methanol | CO | CH4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-aminopropyloxy)phenyl]benzamide | 425 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCN)C)C=C1 | C31H31N3O3
